US07705003B2
Trans-4-{4-(indan-4-yl)-piperazin-1-yl-methyl}-cyclohexyl-carbamic acid tert-butylester (intermediate)
3.58 g (15 mmol) of 1-(indan-4-yl)-piperazine hydrochloride and 3.41 g (15 mmol) of trans-(4-formyl-cyclohexyl)-carbamic acid tert-butylester were dissolved in dichloroethane (120 ml), 2.1 ml (15 mmol) triethylamine was added, then 4.6 g (22 mmol) sodium triacetoxyborohydride was added portionswise and the reaction mixture was stirred for 20 hours at ambient temperature, then 20% potassium carbonate solution in water (40 ml) was added. The organic layer was separated, dried and evaporated to dryness in vacuo. The precipitate was recrystallized from acetonitrile to give the title compound 5.1 g (yield: 82.2%), m.p.: 131-4° C.

reactant | 1-(indan-4-yl)-piperazine hydrochloride | 15 mmol, 3.58 g | Cl.C1CCC2=C(C=CC=C12)N1CCNCC1
reactant | trans-(4-formyl-cyclohexyl)-carbamic acid tert-butylester | 15 mmol, 3.41 g | C(C)(C)(C)OC(N[C@@H]1CC[C@H](CC1)C=O)=O | C12H21NO3
reactant | triethylamine | 15 mmol, 2.1 ml | C(C)N(CC)CC | C6H15N
reactant | sodium triacetoxyborohydride | 22 mmol, 4.6 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | dichloroethane | 120 ml | ClC(C)Cl | C2H4Cl2
solvent | water | 40 ml | O | H2O
product | Trans-4-{4-(indan-4-yl)-piperazin-1-yl-methyl}-cyclohexyl-carbamic acid tert-butylester | 5.1 g, yield: 82.2% | C(C)(C)(C)OC(N[C@@H]1CC[C@H](CC1)CN1CCN(CC1)C1=C2CCCC2=CC=C1)=O | C25H39N3O2
